* File: hw5.pex.spi.pex
* Created: Tue Dec 21 00:55:46 2021
* Program "Calibre xRC"
* Version "v2021.1_33.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW5%NET093 9 14 15 19
c0 37 0 0.0733096f
c1 36 0 0.0468338f
c2 35 0 0.130749f
c3 33 0 0.0375288f
c4 32 0 0.131121f
c5 30 0 0.154133f
c6 28 0 0.0221644f
c7 12 0 0.120907f
r8 36 37 0.0428193
r9 35 36 8
r10 33 37 0.219074
r11 31 33 0.0428193
r12 31 32 0.0428193
r13 30 31 8
r14 28 32 0.345463
r15 26 28 0.0426749
r16 21 35 16.3327
r17 19 21 4.59
r18 17 30 16.3327
r19 15 17 4.59
r20 14 17 4.59
r21 12 26 8
r22 11 12 16.3327
r23 9 11 4.608
.ends

.subckt PM_HW5%SO 9 36 37 41 46 51 56 57 63 66 71 76
c0 83 0 0.193352f
c1 82 0 0.0165047f
c2 79 0 0.024723f
c3 78 0 0.119225f
c4 74 0 0.0664068f
c5 72 0 0.162257f
c6 69 0 0.0555552f
c7 68 0 0.0583925f
c8 67 0 0.0732275f
c9 64 0 0.0651867f
c10 61 0 0.0770063f
c11 60 0 0.145294f
c12 56 0 0.0117122f
c13 54 0 0.0528684f
c14 51 0 0.0216574f
c15 49 0 0.157259f
c16 46 0 0.0171791f
c17 43 0 0.0172541f
c18 40 0 0.127604f
c19 36 0 0.0211458f
c20 35 0 0.0704956f
c21 30 0 0.101612f
c22 25 0 0.0534959f
c23 24 0 0.0482711f
c24 18 0 0.050565f
c25 17 0 0.100912f
c26 15 0 0.0489281f
c27 14 0 0.228817f
c28 12 0 0.166871f
c29 11 0 0.0391339f
c30 9 0 0.0771612f
c31 2 0 0.457491f
r32 82 83 4.4184
r33 78 79 13.2552
r34 74 76 17.5
r35 73 82 1.61899
r36 72 74 6.45644
r37 72 73 9.76596
r38 69 82 3.64594
r39 69 71 17.5
r40 67 82 1.61899
r41 67 68 9.76596
r42 64 68 6.45644
r43 64 66 17.5
r44 61 78 8.68182
r45 61 63 17.5
r46 59 60 16.3327
r47 57 59 4.59
r48 56 59 4.59
r49 53 54 16.3327
r50 51 53 4.59
r51 49 96 0.168519
r52 48 49 16.3327
r53 46 48 4.59
r54 44 96 0.0190636
r55 43 44 16.3327
r56 41 43 4.59
r57 39 40 16.3327
r58 37 39 4.59
r59 36 39 4.59
r60 35 89 0.0320423
r61 34 35 8
r62 32 83 0.186667
r63 31 34 0.0566292
r64 31 32 0.021002
r65 30 79 0.0324074
r66 30 34 0.0461398
r67 29 60 0.138963
r68 28 40 0.1358
r69 27 28 0.0333357
r70 25 86 0.013
r71 24 27 0.0315385
r72 24 26 0.0487203
r73 24 25 8
r74 19 21 0.0602
r75 18 54 0.0616
r76 18 21 0.035
r77 17 44 0.0201227
r78 16 17 0.0994
r79 14 29 0.0391863
r80 14 15 0.4158
r81 13 27 0.0243428
r82 12 16 0.039111
r83 12 13 0.2562
r84 11 21 0.00411102
r85 10 15 0.039111
r86 10 11 0.1176
r87 9 26 0.07
r88 6 19 0.00411102
r89 6 9 0.1302
r90 3 86 0.0198502
r91 2 89 0.0181434
r92 2 3 0.830556
.ends

.subckt PM_HW5%NET089 9 14 15 19
c0 37 0 0.0873868f
c1 36 0 0.0291441f
c2 33 0 0.0273454f
c3 32 0 0.0665908f
c4 30 0 0.141414f
c5 28 0 0.0631301f
c6 25 0 0.136739f
c7 22 0 0.123804f
r8 36 37 0.0428193
r9 33 37 0.267222
r10 31 33 0.0428193
r11 31 32 0.0428193
r12 30 31 8
r13 28 32 0.222685
r14 26 28 0.0428193
r15 25 26 8
r16 22 36 8
r17 21 22 16.3327
r18 19 21 4.59
r19 17 30 16.3327
r20 15 17 4.59
r21 14 17 4.59
r22 11 25 16.3327
r23 9 11 4.59
.ends

.subckt PM_HW5%VDD 27 28 33 34 38 43 48 49 53 113
c0 110 0 0.075597f
c1 109 0 0.0215235f
c2 106 0 0.0159598f
c3 105 0 0.142858f
c4 101 0 0.0499058f
c5 100 0 0.0359112f
c6 96 0 0.0381885f
c7 95 0 0.186441f
c8 93 0 0.0864206f
c9 91 0 0.0426904f
c10 90 0 0.0958579f
c11 85 0 0.0584157f
c12 81 0 0.0598939f
c13 78 0 0.612767f
c14 56 0 0.0969566f
c15 52 0 0.164246f
c16 46 0 0.0770387f
c17 37 0 0.166566f
c18 26 0 0.0368768f
c19 24 0 0.0400692f
c20 5 0 0.0304104f
r21 109 110 0.0428193
r22 106 110 0.222685
r23 104 106 0.0428193
r24 104 105 0.0428193
r25 101 105 0.41287
r26 99 101 0.0428193
r27 99 100 0.0428193
r28 96 100 0.0842593
r29 94 96 0.0428193
r30 94 95 0.0428193
r31 93 94 8
r32 91 95 0.39963
r33 89 91 0.0428193
r34 89 90 0.0428193
r35 85 86 8
r36 83 86 0.07124
r37 77 78 8.16635
r38 75 78 0.2688
r39 74 77 17.28
r40 74 75 5.44423
r41 72 75 0.4032
r42 71 74 25.92
r43 71 72 5.44423
r44 67 72 0.4032
r45 66 67 5.44423
r46 64 67 0.4032
r47 63 66 25.92
r48 63 64 5.44423
r49 60 64 0.4032
r50 60 113 0.0812
r51 59 63 25.92
r52 59 60 5.44423
r53 56 109 8
r54 55 56 16.3327
r55 53 55 4.59
r56 52 104 8
r57 51 52 16.3327
r58 49 51 4.59
r59 48 51 4.59
r60 46 99 8
r61 45 46 16.3327
r62 43 45 4.59
r63 40 93 16.3327
r64 38 40 4.59
r65 37 89 8
r66 36 37 16.3327
r67 34 36 4.59
r68 33 36 4.59
r69 30 85 16.3327
r70 28 30 4.572
r71 27 71 17.28
r72 27 66 8.64
r73 26 113 0.1358
r74 24 81 0.0428193
r75 23 26 0.0485642
r76 23 24 8
r77 5 86 0.0440278
r78 5 90 0.226296
r79 2 83 0.0141833
r80 2 81 0.199815
.ends

.subckt PM_HW5%VSS 17 52 53 57 96
c0 99 0 0.027195f
c1 85 0 0.996891f
c2 77 0 0.0180505f
c3 73 0 0.0168977f
c4 69 0 0.0185037f
c5 68 0 0.069762f
c6 66 0 0.0122793f
c7 56 0 0.141136f
c8 14 0 0.0712554f
c9 7 0 0.0376065f
c10 2 0 0.0427479f
r11 85 99 0.0254415
r12 75 77 0.0662037
r13 73 75 0.0426749
r14 72 99 0.0314255
r15 72 73 8
r16 69 70 0.0228458
r17 68 69 8
r18 64 66 0.0428193
r19 59 68 16.3327
r20 57 59 4.59
r21 56 64 8
r22 55 56 16.3327
r23 53 55 4.59
r24 52 55 4.59
r25 50 99 0.000595745
r26 49 50 16.3327
r27 47 85 0.077
r28 47 96 0.1302
r29 46 49 8.64
r30 46 47 16.3327
r31 44 96 0.1386
r32 43 46 17.28
r33 43 44 5.44423
r34 41 44 0.4032
r35 40 43 25.92
r36 40 41 5.44423
r37 38 41 0.4032
r38 37 40 25.92
r39 37 38 5.44423
r40 35 38 0.4032
r41 34 37 25.92
r42 34 35 5.44423
r43 30 35 0.4032
r44 29 30 5.44423
r45 27 30 0.4032
r46 26 29 25.92
r47 26 27 5.44423
r48 24 27 0.4032
r49 23 26 25.92
r50 23 24 5.44423
r51 20 24 0.40292
r52 19 23 25.902
r53 19 20 5.44423
r54 17 34 4.32
r55 17 29 21.6
r56 14 78 0.0426749
r57 14 77 0.0429638
r58 7 70 0.0192205
r59 7 78 0.13
r60 2 69 0.0428694
r61 2 66 0.222685
.ends

.subckt PM_HW5%INN 4 9
c0 11 0 0.133616f
c1 7 0 0.0630281f
c2 6 0 0.145839f
c3 4 0 0.0638999f
r4 11 12 13.2552
r5 7 11 8.66878
r6 7 9 17.5
r7 6 12 0.13272
r8 2 6 0.039111
r9 2 4 0.0658
.ends

.subckt PM_HW5%SON 19 29 34 39 40 44 45 49 56 61 66 69
c0 88 0 0.127458f
c1 86 0 0.0759251f
c2 76 0 0.0507038f
c3 75 0 0.115429f
c4 73 0 0.017456f
c5 67 0 0.0731954f
c6 64 0 0.125828f
c7 62 0 0.0710912f
c8 59 0 0.0551442f
c9 57 0 0.08133f
c10 54 0 0.147752f
c11 51 0 0.0149435f
c12 48 0 0.142483f
c13 44 0 0.0138592f
c14 43 0 0.127003f
c15 39 0 0.0219544f
c16 34 0 0.0101952f
c17 31 0 0.0170525f
c18 28 0 0.0324462f
c19 26 0 0.031358f
c20 24 0 0.135397f
c21 23 0 0.0465812f
c22 22 0 0.0175504f
c23 21 0 0.180292f
c24 19 0 0.121685f
c25 15 0 0.0606366f
c26 13 0 0.039236f
c27 12 0 0.143774f
c28 11 0 0.0998147f
c29 8 0 0.24179f
c30 7 0 0.0414104f
c31 6 0 0.168221f
c32 5 0 0.145606f
c33 3 0 0.0381545f
r34 85 86 0.056
r35 79 80 13.2552
r36 75 76 13.2552
r37 71 72 6.6276
r38 67 75 8.68182
r39 67 69 17.5
r40 64 79 4.03667
r41 64 66 17.5
r42 63 73 1.61899
r43 62 79 2.41977
r44 62 63 9.76596
r45 59 73 3.64594
r46 59 61 17.5
r47 58 71 2.42255
r48 57 73 1.61899
r49 57 58 9.76596
r50 54 71 4.03388
r51 54 56 17.5
r52 52 85 0.0252
r53 51 52 16.3327
r54 49 51 4.59
r55 47 48 16.3327
r56 45 47 4.59
r57 44 47 4.59
r58 42 43 16.3327
r59 40 42 4.59
r60 39 42 4.59
r61 37 88 0.0190607
r62 36 37 16.3327
r63 34 36 4.59
r64 32 88 0.165926
r65 31 32 16.3327
r66 29 31 4.59
r67 27 43 0.1302
r68 27 28 0.0296412
r69 25 48 0.22148
r70 25 26 0.00770322
r71 24 80 0.225556
r72 23 76 0.0784
r73 21 72 0.273519
r74 21 22 0.0277891
r75 20 80 0.0194444
r76 20 22 0.0277891
r77 17 28 0.0296412
r78 17 19 0.1274
r79 16 86 0.00411102
r80 16 19 0.1652
r81 15 85 0.00411102
r82 14 15 0.1876
r83 12 28 0.00770322
r84 12 13 0.2702
r85 11 37 0.0201256
r86 10 13 0.039111
r87 10 11 0.0938
r88 9 26 0.0296412
r89 8 14 0.039111
r90 8 9 0.3444
r91 6 26 0.0296412
r92 6 7 0.2982
r93 5 24 0.0391863
r94 4 7 0.039111
r95 4 5 0.3486
r96 3 23 0.039111
r97 2 22 0.00930145
r98 2 3 0.126
.ends

.subckt PM_HW5%INP 4 10
c0 7 0 0.145926f
c1 6 0 0.134235f
c2 2 0 0.0677485f
r3 7 10 0.106296
r4 6 7 13.2552
r5 2 6 8.66878
r6 2 4 17.5
.ends

.subckt PM_HW5%EN 18 23 28 31 36 41 44 49 54 67
c0 63 0 0.137379f
c1 62 0 0.0158864f
c2 59 0 0.0169278f
c3 56 0 0.0169278f
c4 52 0 0.0626495f
c5 50 0 0.142906f
c6 47 0 0.0557718f
c7 46 0 0.0682113f
c8 45 0 0.0728615f
c9 42 0 0.0601426f
c10 39 0 0.060114f
c11 37 0 0.149029f
c12 34 0 0.0572013f
c13 33 0 0.0711417f
c14 32 0 0.0773445f
c15 29 0 0.0717617f
c16 26 0 0.0713763f
c17 24 0 0.151568f
c18 21 0 0.0570194f
c19 20 0 0.0800556f
c20 19 0 0.0758281f
c21 16 0 0.0616833f
c22 15 0 0.371091f
c23 14 0 0.0430882f
c24 11 0 0.0642129f
c25 7 0 0.361045f
c26 6 0 0.0685266f
c27 5 0 0.132409f
c28 2 0 0.458084f
r29 62 63 4.4184
r30 59 60 4.4184
r31 57 67 0.3444
r32 56 57 4.4184
r33 52 54 17.5
r34 51 62 1.61899
r35 50 52 6.45644
r36 50 51 9.76596
r37 47 62 3.64594
r38 47 49 17.5
r39 45 62 1.61899
r40 45 46 9.76596
r41 42 46 6.45644
r42 42 44 17.5
r43 39 41 17.5
r44 38 59 1.61899
r45 37 39 6.45644
r46 37 38 9.76596
r47 34 59 3.64594
r48 34 36 17.5
r49 32 59 1.61899
r50 32 33 9.76596
r51 29 33 6.45644
r52 29 31 17.5
r53 26 28 17.5
r54 25 56 1.61899
r55 24 26 6.45644
r56 24 25 9.76596
r57 21 56 3.64594
r58 21 23 17.5
r59 19 56 1.61899
r60 19 20 9.76596
r61 16 20 6.45644
r62 16 18 17.5
r63 15 60 0.6426
r64 14 63 0.268333
r65 12 60 0.2534
r66 11 13 0.053629
r67 11 12 0.00382958
r68 7 67 0.147
r69 6 9 0.054902
r70 6 7 0.00480228
r71 5 15 0.0391863
r72 4 14 0.039111
r73 4 5 0.422593
r74 3 9 0.00480228
r75 2 13 0.00382958
r76 2 3 0.728
.ends

.subckt PM_HW5%COM 7 20 25 30 35 36
c0 39 0 0.145129f
c1 35 0 0.0179725f
c2 23 0 0.0492527f
c3 18 0 0.0122115f
c4 17 0 0.0572552f
c5 16 0 0.0191163f
c6 15 0 0.0191634f
c7 14 0 0.165708f
c8 13 0 0.0892273f
c9 10 0 0.0392693f
c10 9 0 0.0908565f
c11 5 0 0.019941f
c12 4 0 1.75922f
c13 3 0 0.111874f
r14 38 39 16.3327
r15 36 38 4.59
r16 35 38 4.59
r17 32 33 16.3327
r18 30 32 4.59
r19 27 28 16.3327
r20 25 27 4.59
r21 22 23 16.3327
r22 20 22 4.572
r23 19 39 0.20468
r24 17 28 0.0854
r25 17 18 0.0296412
r26 16 23 0.08428
r27 14 19 0.039111
r28 14 15 0.3192
r29 13 33 0.0195555
r30 12 15 0.039111
r31 12 13 0.1694
r32 11 18 0.0296412
r33 10 33 0.0195555
r34 10 11 0.1246
r35 9 18 0.00770322
r36 8 9 0.329
r37 5 7 2.2037
r38 4 8 0.0391863
r39 4 7 0.241111
r40 3 16 0.039111
r41 2 5 0.0391863
r42 2 3 0.3304
.ends

